US04062869
To a stirred suspension of isopropyl 3-indolylglyoxylate (46.4 g.) in isopropanol (500 ml.), lithium borohydride (13.1 g.) was added in small portions. The resulting solution was heated to reflux and stirred for 5 hours then cooled and diluted with water (2 l.). The mixture was acidified with hydrochloric acid and the product extracted into dichloromethane. The extract was washed with sodium carbonate solution then with water and the solvent was evaporated under reduced pressure to give an oil which was crystallised from toluene (50 ml.). The crude product was a red-brown powder, yield 25.0 g. (78%). This was distilled at 0.5 - 1mm. pressure and the distillate crystallised from toluene (100 ml.), giving 3-(2-hydroxyethyl)indole as white crystals, mp. 57°-59°. Yield 20.7g(64.5%)

reactant | isopropyl 3-indolylglyoxylate | 46.4 g | N1C=C(C2=CC=CC=C12)C(C(=O)OC(C)C)=O | C13H13NO3
reactant | lithium borohydride | 13.1 g | [BH4-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | isopropanol | 500 ml | C(C)(C)O | C3H8O
solvent | water | 2 l | O | H2O
product | 3-(2-hydroxyethyl)indole | OCCC1=CNC2=CC=CC=C12 | C10H11NO
